US07199265B2
A mixture of 4-bromo-2,6-dichlorophenol (2.4 g), 5-fluoro-2-nitro-trifluoromethylbenzene (2.0 g), potassium carbonate (2.7 g) in dimethylformamide (30 mL) was heated at reflux for 2 hours. The reaction was cooled to room temperature and concentrated. The residue was partioned between ethyl acetate and hydrochloric acid (2 N), the organic phase concentrated and the residue purified on column (silica gel, ethyl acetate/petrolium ether, 5:95), to give 2.7 g of 3,5-dichloro-4-(4-nitro-3-trifluoromethylphenoxy)bromo-benzene.

reactant | 4-bromo-2,6-dichlorophenol | 2.4 g | BrC1=CC(=C(C(=C1)Cl)O)Cl | C6H3BrCl2O
reactant | 5-fluoro-2-nitro-trifluoromethylbenzene | 2.0 g | FC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(4-nitro-3-trifluoromethylphenoxy)bromo-benzene | 2.7 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)Cl)Br | C13H5BrCl2F3NO3
